US07595319B2
4-Bromo-N-(1-ethyl-3-piperidinyl)benzenesulfonamide
3-Amino-1-ethylpiperidine (0.4 mL, 3.13 mmol) was added to a solution of 4-bromo-benzenesulfonyl chloride (0.4 g, 1.56 mmol) in methylene chloride (10 mL) at room temperature. The mixture was stirred overnight. The reaction solution was extracted three times with a aqueous saturated sodium hydrogen carbonate solution, dried (MgSO4) and evaporated to give 0.533 g (93% yield) of the title compound as a light brown solid: 1H NMR (CDCl3) δ 7.74 (d, J=9 Hz, 2H), 7.62 (d, J=9 Hz, 2H), 3.45 (br s, 1H), 2.46 (br s, 1H), 2.27 (m, 2H), 2.23 (m, 2H), 2.13 (m, 1H), 1.64 (m, 1H), 1.45 (m, 3H), 0.93 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ 140.7, 132.5, 128.7, 127.5, 53.2, 52.3, 49.7, 21.9, 12.1; MS (ESP) m/z 347, 349 (M++1).

reactant | 3-Amino-1-ethylpiperidine | 3.13 mmol, 0.4 mL | NC1CN(CCC1)CC | C7H16N2
reactant | 4-bromo-benzenesulfonyl chloride | 1.56 mmol, 0.4 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-(1-ethyl-3-piperidinyl)benzenesulfonamide | 0.533 g, 93% yield | BrC1=CC=C(C=C1)S(=O)(=O)NC1CN(CCC1)CC | C13H19BrN2O2S
